* SerDes with Oscillating TX Output
* Modified to expose VCO clock at TX output for pipeline testing
.title SerDes with Oscillating TX

* =============================================================================
* PARAMETERS
* =============================================================================
.param vcc=3.3
.param vcont=1.5

* =============================================================================
* VCO SUBCIRCUIT
* =============================================================================
.include blocks/vco_sub.cir

* =============================================================================
* SUPPLY AND CONTROL
* =============================================================================
VDD dd 0 DC {vcc}
Vcont vcont 0 DC {vcont}

* =============================================================================
* VCO INSTANCE - Clock Generation
* =============================================================================
Xvco vco_clk vco_dig vcont dd ro_vco

* =============================================================================
* TX PATH - VCO clock drives output through buffer
* =============================================================================
* Simple inverter buffer to drive TX output with VCO clock
* This makes the TX output oscillate at VCO frequency

* Buffer stage 1
Mn_buf1 tx_buf1 vco_clk 0  0  N1 w=4u l=0.35u
Mp_buf1 tx_buf1 vco_clk dd dd P1 w=8u l=0.35u
Cbuf1 tx_buf1 0 0.5p

* Buffer stage 2 (TX output)
Mn_buf2 tx_out tx_buf1 0  0  N1 w=8u l=0.35u  
Mp_buf2 tx_out tx_buf1 dd dd P1 w=16u l=0.35u
Cload tx_out 0 1p

* =============================================================================
* TRANSISTOR MODELS (BSIM3)
* =============================================================================
.model N1 NMOS
+version = 3.3.0
+Level=8 Tnom=27.0
+Nch=2.498E+17 Tox=9E-09 Xj=1.00000E-07
+Lint=9.36e-8 Wint=1.47e-7
+Vth0=.6322 K1=.756 K2=-3.83e-2 K3=-2.612
+Dvt0=2.812 Dvt1=0.462 Dvt2=-9.17e-2
+Nlx=3.52291E-08 W0=1.163e-6 K3b=2.233
+Vsat=86301.58 Ua=6.47e-9 Ub=4.23e-18 Uc=-4.706281E-11
+Rdsw=650 U0=388.3203 wr=1
+A0=.3496967 Ags=.1 B0=0.546 B1=1
+Dwg=-6.0E-09 Dwb=-3.56E-09 Prwb=-.213
+Keta=-3.605872E-02 A1=2.778747E-02 A2=.9
+Voff=-6.735529E-02 NFactor=1.139926 Cit=1.622527E-04
+Cdsc=-2.147181E-05
+Cdscb=0 Dvt0w=0 Dvt1w=0 Dvt2w=0 Cdscd=0 Prwg=0
+Eta0=1.0281729E-02 Etab=-5.042203E-03
+Dsub=.31871233
+Pclm=1.114846 Pdiblc1=2.45357E-03 Pdiblc2=6.406289E-03
+Drout=.31871233 Pscbe1=5000000 Pscbe2=5E-09 Pdiblcb=-.234
+Pvag=0 delta=0.01
+Wl=0 Ww=-1.420242E-09 Wwl=0
+Wln=0 Wwn=.2613948 Ll=1.300902E-10
+Lw=0 Lwl=0 Lln=.316394 Lwn=0
+kt1=-.3 kt2=-.051 At=22400 Ute=-1.48
+Ua1=3.31E-10 Ub1=2.61E-19 Uc1=-3.42e-10
+Kt1l=0 Prt=764.3

.model P1 PMOS
+version = 3.3.0
+Level=8 Tnom=27.0
+Nch=3.533024E+17 Tox=9E-09 Xj=1.00000E-07
+Lint=6.23e-8 Wint=1.22e-7
+Vth0=-.6732829 K1=.8362093 K2=-8.606622E-02 K3=1.82
+Dvt0=1.903801 Dvt1=.5333922 Dvt2=-.1862677
+Nlx=1.28e-8 W0=2.1e-6
+K3b=-0.24 Prwg=-0.001 Prwb=-0.323
+Vsat=103503.2 Ua=1.39995E-09 Ub=1.e-19 Uc=-2.73e-11
+Rdsw=460 U0=138.7609
+A0=.4716551 Ags=0.12
+Keta=-1.871516E-03 A1=.3417965 A2=0.83
+Voff=-.074182 NFactor=1.54389 Cit=-1.015667E-03
+Cdsc=8.937517E-04
+Cdscb=1.45e-4 Cdscd=1.04e-4
+Dvt0w=0.232 Dvt1w=4.5e6 Dvt2w=-0.0023
+Eta0=6.024776E-02 Etab=-4.64593E-03
+Dsub=.23222404
+Pclm=.989 Pdiblc1=2.07418E-02 Pdiblc2=1.33813E-3
+Drout=.3222404 Pscbe1=118000 Pscbe2=1E-09
+Pvag=0
+kt1=-0.25 kt2=-0.032 prt=64.5 At=33000 Ute=-1.5
+Ua1=4.312e-9 Ub1=6.65e-19 Uc1=0
+Kt1l=0

.END
