* Minimal SERDES IP - Top Level Integration (FIXED FOR CONVERGENCE)
* Purpose: Validate SynapticAMS pipeline with complete analog system
* Architecture: VCO + TX Differential Driver + RX Differential Amplifier
* Date: 2026-03-15
* FIXES: Added .nodeset, .ic, startup resistors for better convergence

.title Minimal SERDES IP for Pipeline Validation (Fixed)

* =============================================================================
* PARAMETERS
* =============================================================================
.param vcc=3.3              $ VCO supply
.param vdd_analog=12        $ Analog supply for diff pairs
.param vss_analog=-12       $ Analog ground for diff pairs
.param vcont=1.5            $ VCO control voltage (for ~589 MHz)
.param tx_data_dc=0.5       $ TX input data level (0-1V)

* =============================================================================
* SUBCIRCUIT DEFINITIONS
* =============================================================================

* VCO Subcircuit (7-stage differential ring oscillator)
.include blocks/vco_sub.cir

* Differential Pair Subcircuit (BJT-based) - IMPROVED
.subckt diffpair vout_p vout_n vin_p vin_n vdd vss
* BJT Models
.model qnl npn(bf=80 rb=100 ccs=2pf tf=0.3ns tr=6ns cje=3pf cjc=2pf va=50)
.model qnr npn(bf=80 rb=100 ccs=2pf tf=0.3ns tr=6ns cje=3pf cjc=2pf va=50)

* Differential Pair
q1 vout_p vin_p tail qnr
q2 vout_n vin_n tail qnl

* Collector load resistors
rc1 vout_p vdd 10k
rc2 vout_n vdd 10k

* Current mirror bias
q3 bias bias vss qnl
q4 tail bias vss qnr
rbias bias vdd 20k

* CONVERGENCE HELP: Add small startup resistors to establish initial bias
* These help ngspice find the DC operating point
rstartup_p vout_p vdd 1Meg
rstartup_n vout_n vdd 1Meg
rstartup_tail tail vss 100k

.ends diffpair

* =============================================================================
* SUPPLY VOLTAGES
* =============================================================================
VDD_VCO dd_vco 0 DC {vcc}
VDD_ANALOG dd_analog 0 DC {vdd_analog}
VSS_ANALOG ss_analog 0 DC {vss_analog}

* =============================================================================
* CLOCK GENERATION (VCO)
* =============================================================================
* VCO control voltage
Vcont vcont 0 DC {vcont}

* VCO instantiation: ro_vco(aout, dout, cont, vdd)
Xvco clk_analog clk_digital vcont dd_vco ro_vco

* Output load on VCO
Cvco_load clk_analog 0 0.5pF

* =============================================================================
* TX PATH
* =============================================================================

* TX Input Data Source (differential)
* For DC analysis: static differential input
* For transient: could be modulated by data
Vtx_data_p tx_data_p 0 DC {tx_data_dc}
Vtx_data_n tx_data_n 0 DC 0

* TX Differential Driver (re-uses differential pair topology)
Xtx_driver tx_out_p tx_out_n tx_data_p tx_data_n dd_analog ss_analog diffpair

* TX Output termination (50 ohm for CML)
Rtx_term_p tx_out_p 0 50
Rtx_term_n tx_out_n 0 50

* =============================================================================
* CHANNEL
* =============================================================================
* Simple RC transmission line model
* For minimal demo: direct connection with parasitics

* Channel resistance (0.1 ohm/cm * 10cm)
Rchan_p tx_out_p rx_in_p 1
Rchan_n tx_out_n rx_in_n 1

* Channel capacitance (1pF/cm * 10cm)
Cchan_p rx_in_p 0 10p
Cchan_n rx_in_n 0 10p

* =============================================================================
* RX PATH
* =============================================================================

* RX Differential Amplifier
Xrx_amp rx_out_p rx_out_n rx_in_p rx_in_n dd_analog ss_analog diffpair

* RX Output load
Crx_load_p rx_out_p 0 1pF
Crx_load_n rx_out_n 0 1pF

* =============================================================================
* TRANSISTOR MODELS
* =============================================================================

* BSIM3 NMOS model (for VCO)
.model N1 NMOS
+version = 3.3.0
+Level=        8
+Tnom=27.0
+Nch= 2.498E+17  Tox=9E-09 Xj=1.00000E-07
+Lint=9.36e-8 Wint=1.47e-7
+Vth0= .6322    K1= .756  K2= -3.83e-2  K3= -2.612
+Dvt0= 2.812  Dvt1= 0.462  Dvt2=-9.17e-2
+Nlx= 3.52291E-08  W0= 1.163e-6
+K3b= 2.233
+Vsat= 86301.58  Ua= 6.47e-9  Ub= 4.23e-18  Uc=-4.706281E-11
+Rdsw= 650  U0= 388.3203 wr=1
+A0= .3496967 Ags=.1    B0=0.546    B1= 1
+ Dwg = -6.0E-09 Dwb = -3.56E-09 Prwb = -.213
+Keta=-3.605872E-02  A1= 2.778747E-02  A2= .9
+Voff=-6.735529E-02  NFactor= 1.139926  Cit= 1.622527E-04
+Cdsc=-2.147181E-05
+Cdscb= 0  Dvt0w =  0 Dvt1w =  0 Dvt2w =  0
+ Cdscd =  0 Prwg =  0
+Eta0= 1.0281729E-02  Etab=-5.042203E-03
+Dsub= .31871233
+Pclm= 1.114846  Pdiblc1= 2.45357E-03  Pdiblc2= 6.406289E-03
+Drout= .31871233  Pscbe1= 5000000  Pscbe2= 5E-09 Pdiblcb = -.234
+Pvag= 0 delta=0.01
+ Wl =  0 Ww = -1.420242E-09 Wwl =  0
+ Wln =  0 Wwn =  .2613948 Ll =  1.300902E-10
+ Lw =  0 Lwl =  0 Lln =  .316394
+ Lwn =  0
+kt1=-.3  kt2=-.051
+At= 22400
+Ute=-1.48
+Ua1= 3.31E-10  Ub1= 2.61E-19 Uc1= -3.42e-10
+Kt1l=0 Prt=764.3

* BSIM3 PMOS model (for VCO)
.model P1 PMOS
+version = 3.3.0
+Level=        8
+Tnom=27.0
+Nch= 3.533024E+17  Tox=9E-09 Xj=1.00000E-07
+Lint=6.23e-8 Wint=1.22e-7
+Vth0=-.6732829 K1= .8362093  K2=-8.606622E-02  K3= 1.82
+Dvt0= 1.903801  Dvt1= .5333922  Dvt2=-.1862677
+Nlx= 1.28e-8  W0= 2.1e-6
+K3b= -0.24 Prwg=-0.001 Prwb=-0.323
+Vsat= 103503.2  Ua= 1.39995E-09  Ub= 1.e-19  Uc=-2.73e-11
+ Rdsw= 460  U0= 138.7609
+A0= .4716551 Ags=0.12
+Keta=-1.871516E-03  A1= .3417965  A2= 0.83
+Voff=-.074182  NFactor= 1.54389  Cit=-1.015667E-03
+Cdsc= 8.937517E-04
+Cdscb= 1.45e-4  Cdscd=1.04e-4
+ Dvt0w=0.232 Dvt1w=4.5e6 Dvt2w=-0.0023
+Eta0= 6.024776E-02  Etab=-4.64593E-03
+Dsub= .23222404
+Pclm= .989  Pdiblc1= 2.07418E-02  Pdiblc2= 1.33813E-3
+Drout= .3222404  Pscbe1= 118000  Pscbe2= 1E-09
+Pvag= 0
+kt1= -0.25  kt2= -0.032 prt=64.5
+At= 33000
+Ute= -1.5
+Ua1= 4.312e-9 Ub1= 6.65e-19  Uc1= 0
+Kt1l=0

* =============================================================================
* CONVERGENCE AIDS - INITIAL CONDITIONS
* =============================================================================

* These help ngspice find the DC operating point
* Differential pair outputs should be near Vdd with small voltage drop

* TX differential pair outputs (expect ~9-10V with ±12V supplies)
.nodeset v(tx_out_p)=9.0
.nodeset v(tx_out_n)=9.0

* RX differential pair outputs
.nodeset v(rx_out_p)=9.0
.nodeset v(rx_out_n)=9.0
.nodeset v(rx_in_p)=9.0
.nodeset v(rx_in_n)=9.0

* VCO analog output (expect oscillation around Vcc/2)
.nodeset v(clk_analog)=1.6
* NOTE: clk_digital is a digital signal (from ADC bridge), cannot set voltage nodeset

* Differential pair internal nodes - REMOVED (incorrect syntax causes warnings)
* ngspice subcircuit hierarchy requires different syntax, and external nodesets
* should be sufficient for convergence

* =============================================================================
* ANALYSIS
* =============================================================================

* Operating Point Analysis
.OP

* DC Sweep: Sweep TX input to observe TX->RX transfer
*.DC Vtx_data_p 0 1 0.01

* Transient Analysis: Observe clock and data transmission
* Use UIC (Use Initial Conditions) to skip problematic DC operating point
.TRAN 20p 50n UIC

* Print key nodes
.PRINT TRAN v(clk_analog) v(tx_out_p) v(tx_out_n) v(rx_out_p) v(rx_out_n)

* Convergence options for difficult circuits
.options gmin=1e-12
.options abstol=1e-12
.options reltol=1e-6
.options itl1=300
.options itl2=200
.options itl4=100

.END
